US09340556B2
6-((tert-Butoxycarbonyl)amino)-2,3-dimethoxybenzoic acid (39 g, 131 mmol) was treated with HCl in dioxane (4N, 300 mL, 1200 mmol) at r.t. and the mixture was stirred at r.t. for 3 h. LCMS indicated completion of the reaction. The solid was collected by filtration, washed with ethyl ether and dried to afford 6-amino-2,3-dimethoxybenzoic acid, Hydrochloride (28.5 g, 120 mmol, 91% yield) as a white solid. LCMS: (M+H)+: 198.2.

reactant | 6-((tert-Butoxycarbonyl)amino)-2,3-dimethoxybenzoic acid | 131 mmol, 39 g | C(C)(C)(C)OC(=O)NC1=CC=C(C(=C1C(=O)O)OC)OC | C14H19NO6
reactant | HCl | Cl | ClH
reactant | dioxane | 1200 mmol, 4N, 300 mL | O1CCOCC1 | C4H8O2
product | 6-amino-2,3-dimethoxybenzoic acid, Hydrochloride | 120 mmol, 28.5 g, 91% yield | Cl.NC1=CC=C(C(=C1C(=O)O)OC)OC | InChI=1S/C9H11NO4.ClH/c1-13-6-4-3-5(10)7(9(11)12)8(6)14-2;/h3-4H,10H2,1-2H3,(H,11,12);1H
